US04971982
250 mg of 4-chloro-2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide were dissolved in 6 ml of methanol and added to a solution of sodium methoxide prepared from 0.5 g of metallic sodium in 50 ml of methanol. The mixture was heated at reflux for 2 hours under a nitrogen atmosphere and then allowed to cool to room temperature. The solution was evaporated and the residue was taken up in ethyl acetate and water, the organic phase was separated, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using 20% (v/v) methanol/ethyl acetate for the elution to give a solid which was recrystallized from ethyl acetate. There were obtained 65 mg of 2-(6-cyano-3,4 -dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)-4-methoxypyridine N-oxide of melting point 196°-198° C.

reactant | 4-chloro-2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide | 250 mg | ClC1=CC(=[N+](C=C1)[O-])C1CC(OC2=C1C=C(C=C2)C#N)(C)C | C17H15ClN2O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.5 g | [Na] | Na
solvent | methanol | 6 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-(6-cyano-3,4 -dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)-4-methoxypyridine N-oxide | 65 mg | C(#N)C=1C=CC2=C(C(CC(O2)(C)C)C2=[N+](C=CC(=C2)OC)[O-])C1 | C18H18N2O3
